US06492364B1
Diphenylmethylpiperazine (2.20 g) was dissolved in dimethylformamide (25 ml), and then 1-chloro-3-pentanol (1.78 g) and potassium carbonate (722 mg) were added thereto, followed by stirring the mixture at 80° C. for 15 hours. After evaporation of dimethylformamide, water was added to the residue and the resultant was extracted 3 times with ethyl acetate. Organic layers were combined and washed with brine. The resultant was dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate) to obtain 1.79 g of amorphous 1-(4-(diphenylmethyl)piperazinyl)pentane-3-ol. Yield: 61%.

reactant | Diphenylmethylpiperazine | 2.20 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | 1-chloro-3-pentanol | 1.78 g | ClCCC(CC)O | C5H11ClO
reactant | potassium carbonate | 722 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-(4-(diphenylmethyl)piperazinyl)pentane-3-ol | 1.79 g, Yield: 61% | C1(=CC=CC=C1)C(N1CCN(CC1)CCC(CC)O)C1=CC=CC=C1 | C22H30N2O
